*
Q1 N003 N006 0 0 NPN
Q2 Vpulse N004 0 0 NPN
Q4 N002 N005 N008 0 NPN
Q3 N003 N007 0 0 NPN
Q5 Vout N002 N008 0 NPN
R2 N001 N003 1k
R3 N001 N004 10k
R4 N001 Vpulse 1k
R1 N006 Vin 10k
C1 N004 N003 0.1µ
V1 Vin 0 PULSE(0 5 1m 0.1m 0.1m 0.1m 5 3m)
V2 N001 0 5
R5 Vpulse N007 20k
R6 N005 Vpulse 25k
R7 N002 N001 1k
R8 Vout N001 1k
R9 0 N008 20
.model NPN NPN
.model PNP PNP
.lib /Users/nreilly/Library/Application Support/LTspice/lib/cmp/standard.bjt
.tran 3ms startup
.backanno
.end
